US04680391
A mixture of 283.3 mg (1.8 mM) 3,3-dimethyl-4-acetoxyazetidin-2-one, 2 ml pyridine and 2 ml acetic anhydride was heated to 100° in a sealed tube for 36 hours. The reaction mixture was concentrated in vacuo and the residue chromatographed on silica gel in hexane/ethyl acetate to yield 295 mg (82%) of 1-acetyl-3,3-dimethyl-4-acetoxyazetidin-2-one.

reactant | 3,3-dimethyl-4-acetoxyazetidin-2-one | 1.8 mM, 283.3 mg | CC1(C(NC1OC(C)=O)=O)C | C7H11NO3
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-3,3-dimethyl-4-acetoxyazetidin-2-one | 295 mg, 82% | C(C)(=O)N1C(C(C1OC(C)=O)(C)C)=O | C9H13NO4
